US20010008893A1
Using 6.65 g of 2-tert-butyl-1,4-dihydroxybenzene, 4.6 ml of benzoyl chloride and 200 ml of pyridine, reaction and workup carried out as in Reference Example gave 9.35 g of 4-benzoyloxy-2-tert-butylphenol as white crystals, m.p. 120-121°C. Using 9.35 g of the white crystals, 1.47 g of sodium hydride, 6.27 g of benzyl bromide and 40 ml of DMF, reaction and workup carried out as in Example 12 gave 6.07 g of yellow oil.

reactant | 2-tert-butyl-1,4-dihydroxybenzene | 6.65 g | C(C)(C)(C)C1=C(C=CC(=C1)O)O | C10H14O2
reactant | benzoyl chloride | 4.6 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | 4-benzoyloxy-2-tert-butylphenol | 9.35 g | C(C1=CC=CC=C1)(=O)OC1=CC(=C(C=C1)O)C(C)(C)C | C17H18O3
